US06353006B1
2-Aminonorbornane-2-carboxylic acid was converted into 2-amino-2-(hydroxymethyl)norbornane as a diastereomeric mixture in a manner analogous to Method B1a. A solution of the amino alcohol (0.31 g, 2.16 mmol) and isobutyl bromide (0.23 ml, 2.16 ml) in DMF (3 mL) was heated at 90° C. for 92 h, then cooled to room temp. and partitioned between EtOAc (100 mL) and a saturated NaHCO3 solution (100 mL). The organic layer was washed with a saturated NaCl solution (50 mL), dried (MgSO4), and concentrated under reduced pressure to yield 2-(isobutylamino)-2-(hydroxymethyl)norbornane as a diastereomeric mixture (0.24 g, 55%): GC-MS m/z 197 (M+).

reactant | 2-Aminonorbornane-2-carboxylic acid | NC1(C2CCC(C1)C2)C(=O)O | C8H13NO2
reactant | 2-amino-2-(hydroxymethyl)norbornane | NC1(C2CCC(C1)C2)CO | C8H15NO
reactant | amino alcohol | 2.16 mmol, 0.31 g | NO | H3NO
reactant | isobutyl bromide | 0.23 ml | C(C(C)C)Br | C4H9Br
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 2-(isobutylamino)-2-(hydroxymethyl)norbornane | C(C(C)C)NC1(C2CCC(C1)C2)CO | C12H23NO
